US05829448
pheophorbide a [Pheo a];
merocyanine 540[MC 540]; Vitamin D; 5-amino-laevulinic acid [ALA]; photosan; chlorin e6, chlorin e6 ethylenediamide, and mono-L-aspartyl chlorin e6;

reactant | chlorin e6 | CCC1=C(C=2C=C3NC(=CC4=NC(=C(C5=C(C(=C(N5)C=C1N2)C)C(=O)O)CC(=O)O)[C@H]([C@@H]4C)CCC(=O)O)C(=C3C=C)C)C | C34H36N4O6
reactant | chlorin e6 ethylenediamide | CCC1=C2C=C3C(=C(C(=N3)C(=C4[C@H]([C@@H](C(=N4)C=C5C(=C(C(=CC(=C1C)N2)N5)C=C)C)C)CCC(=O)O)CC(=O)OC)C(=O)NCCN)C | C37H44N6O5
reactant | mono-L-aspartyl chlorin e6 | CCC1=C2C=C3C(=C(C(=N3)C(=C4[C@H]([C@@H](C(=N4)C=C5C(=C(C(=CC(=C1C)N2)N5)C=C)C)C)CCC(=O)[O-])CC(=O)N[C@@H](CC(=O)[O-])C(=O)[O-])C(=O)[O-])C.[Na+].[Na+].[Na+].[Na+]
product | pheophorbide a | CCC1=C(C=2C=C3NC(=CC4=NC(=C5C6=C(C(=C(N6)C=C1N2)C)C(=O)[C@@H]5C(=O)OC)[C@H]([C@@H]4C)CCC(=O)O)C(=C3C=C)C)C | C35H36N4O5
